US09447078B2
Solution of N-(3-(4-bromothiophen-2-yl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide (0.77 g, 2.32 mmol) and 1-ethynylcyclohexanol (0.48 g, 3.87 mmol) in Et3N (10 mL) was degassed by bubbling Ar for 5 min. CuI (0.0482 g, 0.253 mmol) and PdCl2(Ph3P)2 (0.0874 g, 0.125 mmol) were added to the reaction mixture and degassed by alternating vacuum/Ar once. The reaction mixture was stirred at +80° C. overnight, partitioned between EtOAc and aqueous NH4Cl (25%). Aqueous layer was additionally extracted with EtOAc and combined organic layers were washed with brine. Concentration under reduced pressure followed by flash chromatography purification (10%-75% EtOAc—hexanes gradient) gave 2,2,2-trifluoro-N-(3-hydroxy-3-(4-((1-hydroxycyclohexyl)ethynyl)thiophen-2-yl)propyl)acetamide as a light yellow oil. Yield (0.52 g, 60%); 1H NMR (400 MHz, DMSO-d6) δ 9.37 (br.s, 1H), 7.52 (d, J=1.3 Hz, 1H), 6.92 (d, J=1.3 Hz, 1H), 5.78 (d, J=4.7 Hz, 1H), 5.34 (s, 1H), 4.74-4.81 (m, 1H), 3.20-3.30 (m, 2H), 1.84-1.91 (m, 2H), 1.74-1.84 (m, 2H), 1.56-1.65 (m, 2H), 1.38-1.56 (m, 6H).

reactant | N-(3-(4-bromothiophen-2-yl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide | 2.32 mmol, 0.77 g | BrC=1C=C(SC1)C(CCNC(C(F)(F)F)=O)O | C9H9BrF3NO2S
reactant | 1-ethynylcyclohexanol | 3.87 mmol, 0.48 g | C(#C)C1(CCCCC1)O | C8H12O
solvent | Et3N | 10 mL | CCN(CC)CC | C6H15N
catalyst | CuI | 0.253 mmol, 0.0482 g | [Cu]I
product | 2,2,2-trifluoro-N-(3-hydroxy-3-(4-((1-hydroxycyclohexyl)ethynyl)thiophen-2-yl)propyl)acetamide | FC(C(=O)NCCC(C=1SC=C(C1)C#CC1(CCCCC1)O)O)(F)F | C17H20F3NO3S
